US07560596B2
Synthesis of 4-hydroxy-2′-methyl-biphenyl-3-carboxylic acid (FIG. 2, Entry 5)
Using 0.1 mol % Pd. The general procedure described in Example 3 was used with 5-chloro-2-hydroxy-benzoic acid (173 mg, 1.00 mmol), 2-methylphenylboronic acid (163 mg, 1.20 mmol), K2CO3 (345 mg, 2.50 mmol), water (2.0 mL), Pd/L solution (0.200 mL of a Pd(OAc)2 (1.1 mg, 0.005 mmol, 0.5 mol %), sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate (5.0 mg, 0.010 mmol, 1 mol %) solution in 1.0 mL water), 12 h, 100° C. The product was isolated as a white solid (217 mg, 96%). Mp=151° C. (lit. 150-152° C.). 1H NMR (400 MHz, CDCl3) δ: 11.91 (br-s, 1H), 10.28 (br-s, 1H), 7.83 (d, 1H, J=2.0 Hz), 7.42 (dd, 1H, J=2.4 Hz, J=8.6 Hz), 7.20-7.13 (m, 4H), 6.98 (d, 1H, J=8.4 Hz), 2.20 (s, 3H). 13C NMR (125 MHz, CDCl3) δ: 175.4, 161.3, 140.4, 138.2, 135.6, 133.7, 131.4, 130.7, 129.9, 127.4, 126.2, 117.9, 111.2, 20.7 IR (neat, cm−1): 3062, 1664, 1614, 1583, 1478, 1440, 1229, 1190, 728.

reactant | 5-chloro-2-hydroxy-benzoic acid | 1.00 mmol, 173 mg | ClC=1C=CC(=C(C(=O)O)C1)O | C7H5ClO3
reactant | 2-methylphenylboronic acid | 1.20 mmol, 163 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | K2CO3 | 2.50 mmol, 345 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 1.0 mL | O | H2O
catalyst | Pd | [Pd] | Pd
catalyst | Pd(OAc)2 | 0.005 mmol, 0.200 mL, 1.1 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate | 0.010 mmol, 5.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
solvent | water | 2.0 mL | O | H2O
product | 4-hydroxy-2′-methyl-biphenyl-3-carboxylic acid | 217 mg, 96% | OC1=C(C=C(C=C1)C1=C(C=CC=C1)C)C(=O)O | C14H12O3
